* SPICE Netlist for the given schematic

* Voltage source
VCC 9 0 DC <value>
VBias1 6 0 DC <value>
VBias2 3 0 DC <value>

* Transistors
Q46 6 5 3 NPN
Q47 4 6 7 NPN
Q48 5 5 6 NPN
Q49 7 6 4 NPN
Q50 5 4 5 NPN
Q51 4 4 3 NPN
Q52 5 3 4 NPN
Q53 5 3 4 NPN
Q54 8 5 3 NPN
Q55 5 5 6 NPN
Q56 8 5 6 NPN
Q57 3 3 4 NPN
Q58 5 2 3 NPN
Q59 8 5 6 NPN
Q60 8 4 3 NPN

* Resistors
R48 6 3 1MEG
R49 3 8 3K
R50 5 9 33K
R51 3 6 33K
R52 3 7 33K
R53 6 5 33K
R54 9 5 33K
R55 8 3 33K
R56 8 3 33K
R57 8 4 33K
R58 8 2 33K
R59 8 3 33K
R60 8 1 33K

* Capacitors
C48 4 3 1PF
C58 2 5 1PF

* End of netlist